US07230105B2
4-phenyl-piperazine-1-carboxylic acid{5-[3-(acridine-9-yl-amino)-5-hydroxy-methylphenylcarbamoyl]-6-ethyl-2-methoxy-pyridine-3-yl}amide
2-ethyl-6-methoxy-5-[(4-phenylpiperazine-1-carbonyl)amino]nicotinic acid (6.48 g, 15.7 mmole) was dissolved in DMF (100 mL), thereto WSCD (3 g, 15.7 mmole) HOBT (2.12g, 15.7 mmole) and [3-(acridine-9-yl-amino)-5-aminophenyl]-methanol were added. The resulting mixture was stirred for 24 hours at the room temperature and the solvent used was removed under the reduced pressure. Then, the resulting product was purified by column chromatography to give the titled compound.

reactant | 2-ethyl-6-methoxy-5-[(4-phenylpiperazine-1-carbonyl)amino]nicotinic acid | 15.7 mmole, 6.48 g | C(C)C1=C(C(=O)O)C=C(C(=N1)OC)NC(=O)N1CCN(CC1)C1=CC=CC=C1 | C20H24N4O4
reactant | HOBT | 15.7 mmole, 3 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | [3-(acridine-9-yl-amino)-5-aminophenyl]-methanol | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC=1C=C(C=C(C1)N)CO | C20H17N3O
reactant | DMF | 100 mL | CN(C)C=O | C3H7NO
product | 4-phenyl-piperazine-1-carboxylic acid{5-[3-(acridine-9-yl-amino)-5-hydroxy-methylphenylcarbamoyl]-6-ethyl-2-methoxy-pyridine-3-yl}amide | yield: 73.2% | C1=CC=CC2=NC3=CC=CC=C3C(=C12)NC=1C=C(C=C(C1)O)N(C(=O)C=1C=C(C(=NC1CC)OC)NC(=O)N1CCN(CC1)C1=CC=CC=C1)C | C40H39N7O4
